US06245713B1
Alkylether surfactant (CS-20 or Plurafac™ A-38) and amine surfactant (Ethomeen™ T/25) were added to water in a formulating vessel and the resulting mixture was heated to 55° C. for 2 hours in a shaker bath. The mixture was allowed to cool, then glyphosate IPA salt, in the form of MON 0139, was added with mild agitation to form a preliminary glyphosate/surfactant mixture. Lecithin (Avanti, 45% phospholipids) was then added to this preliminary mixture, with stirring to break up lumps. The mixture was left for about 1 hour to allow the lecithin to hydrate, then butyl stearate was added with further stirring. Stirring continued until no phase separation occurred. The mixture in the formulating vessel was then transferred to a microfluidizer (Microfluidics International Corp., Model M-110 OF) and microfluidized for 3-5 cycles at 10,000 psi (69 MPa). In each cycle, the vessel was rinsed with microfluidized mixture. In the last cycle, the finished composition was collected in a clean vessel.

reactant | glyphosate IPA | C(C(=O)O)NCP(=O)(O)O.CC(C)O
solvent | water | O | H2O
product | glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
